US08609692B2
(R)-8-chloro-7-fluoro-2,2-dimethylchroman-4-amine
The crude (R)-tert-butyl 8-chloro-7-fluoro-2,2-dimethylchroman-4-ylcarbamate (4.47 g, 13.5 mmol), MeOH (36 mL), and concentrated HCl (4 mL) were heated to 50° C. After 2 h, complete deprotection observed by LCMS. The reaction mixture was cooled, stirred for 8 h, then diluted with methyl tert-buthy ether (60 mL) and water (40 mL). The mixture was partitioned and the organic layer was extracted with water (50 mL). The aqueous layer was basified with 2N NaOH (40 mL) and extracted with dichloromethane (2×40 mL). The organic extracts were dried (Na2SO4), filtered, and concentrated to give the title compound (2.87 g, 12.50 mmol, 92% yield). MS (ESI+) m/z 230 (M+H)+.

reactant | (R)-tert-butyl 8-chloro-7-fluoro-2,2-dimethylchroman-4-ylcarbamate | 13.5 mmol, 4.47 g | ClC=1C(=CC=C2[C@@H](CC(OC12)(C)C)NC(OC(C)(C)C)=O)F | C16H21ClFNO3
reactant | MeOH | 36 mL | CO | CH4O
reactant | HCl | 4 mL | Cl | ClH
solvent | water | 40 mL | O | H2O
product | (R)-8-chloro-7-fluoro-2,2-dimethylchroman-4-amine | 12.50 mmol, 2.87 g, 92% yield | ClC=1C(=CC=C2[C@@H](CC(OC12)(C)C)N)F | C11H13ClFNO
